US04659728
5-(4-hydroxyphenyl)-4-phenyl-2-oxazolepropanoic acid
5-(4-methoxyphenyl)-4-phenyl-2-oxazolepropanoic acid (18.5 g, 0.056 m) dissolved in 700 ml dichloromethane was treated with boron tribromide (275 ml of 1M in dichloromethane) at 25° C. for twenty hours. The solution was poured into 1 l of ice and water and extracted with 2×500 ml of diethyl ether. The organic extracts were washed with water and extracted with 2×500 ml 1N sodium hydroxide. The basic aqueous solution was acidified with 12N hydrochloric acid to pH 2 and extracted with diethyl ether. The ether solution was washed with brine, dried over anhydrous MgSO4 and evaporated. Thin layer chromatography on silica gel 60 with methylisobutylketone:CHCl3 :acetic acid 50:50:1 revealed two products detectable with U.V. and Bray's phenol spray. Comparative TLC demonstrated that the less polar product corresponded to metabolite II and the more polar product corresponded to metabolite III of Janssen et al. The two products were separated by HPLC on silica gel with methylene chloride:ethyl acetate:acetic acid 80:20:1. The appropriate fractions were pooled and evaporated. 9.0 Grams of the title and major product were obtained which were crystallized from 100 ml of hot ethyl acetate by chilling. Yield: 5.1 g, m.p. 175°-176°.

reactant | 5-(4-methoxyphenyl)-4-phenyl-2-oxazolepropanoic acid | 18.5 g | COC1=CC=C(C=C1)C1=C(N=C(O1)CCC(=O)O)C1=CC=CC=C1 | C19H17NO4
reactant | boron tribromide | 1M, 275 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | 5-(4-hydroxyphenyl)-4-phenyl-2-oxazolepropanoic acid | OC1=CC=C(C=C1)C1=C(N=C(O1)CCC(=O)O)C1=CC=CC=C1 | C18H15NO4
